US09085586B2
Into a 100-mL round-bottom flask, was placed a solution of ethyl 2-[3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-12-yl]acetate (850 mg, 2.77 mmol, 1.00 equiv) in freshly distilled THF (15 mL) cooled down to −78° C. in a liquid N2/ethanol bath under nitrogen. Then DIBAL-H (4.42 mL, 2.00 equiv) was added dropwise with stirring at −78° C. in 10 min and the resulting solution was stirred for 2 h at this temperature. The resulting solution was allowed to react, with stirring, for an additional 1 h at room temperature and quenched with water, extracted with 3×100 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (4/1) to give the 2-(4-chlorobenzo[4,5]thieno[2,3-d]pyrimidin-6-yl)ethanol (500 mg, 68%) as a yellow solid. LCMS (ES, m/z): 265 and 267 (M+H+).

reactant | ethyl 2-[3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-12-yl]acetate | 2.77 mmol, 850 mg, 1.00 equiv | ClC=1C=2C=3C=C(C=CC3SC2N=CN1)CC(=O)OCC | C14H11ClN2O2S
reactant | DIBAL-H | 4.42 mL, 2.00 equiv | CC(C)C[AlH]CC(C)C
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(4-chlorobenzo[4,5]thieno[2,3-d]pyrimidin-6-yl)ethanol | 500 mg, 68% | ClC=1C2=C(N=CN1)SC1=C2C=C(C=C1)CCO | C12H9ClN2OS
